US08877970B2
4-(3-(3-iodobenzyl)thioureido)benzenesulfonamide (MIP-1139)
To a suspension of 4-isothiocyanatobenzenesulfonamide (378 mg, 1.76 mmol) in dry acetonitrile (10 mL) and triethylamine (0.3 mL, 4.0 mmol) was added 3-iodobenzylamine hydrochloride salt (476 mg, 1.76 mmol). The reaction mixture became warm and a clear solution resulted. After stirring for 2 h the reaction was concentrated and the crude solid recrystallized from methanol/water to afford a white solid. The solid was filtered and washed with hexanes to afford the desired product MIP-1139 (715 mg, 91%). 1H NMR (400 MHz, DMSO-d6) δ 9.95 (br, 1H), 8.48 (br, 1H), 7.74-7.61 (m, 5H), 7.36-7.12 (m, 3H), 4.70 (m, 2H); (M+H)+ (448).

reactant | 4-isothiocyanatobenzenesulfonamide | 1.76 mmol, 378 mg | N(=C=S)C1=CC=C(C=C1)S(=O)(=O)N | C7H6N2O2S2
reactant | triethylamine | 4.0 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
reactant | 3-iodobenzylamine hydrochloride salt | 1.76 mmol, 476 mg | Cl.IC=1C=C(CN)C=CC1
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-(3-(3-iodobenzyl)thioureido)benzenesulfonamide | IC=1C=C(CNC(NC2=CC=C(C=C2)S(=O)(=O)N)=S)C=CC1 | C14H14IN3O2S2
